US09290476B2
(4-(Dimethylamino)phenyl)(pyridin-3-yl)methanone
The title compound was prepared analogously to the method in Intermediate 25: step b using (4-(dimethylamino)phenyl)(pyridin-3-yl)methanol (Intermediate 28: step a) in place of (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol.

reactant | (4-(dimethylamino)phenyl)(pyridin-3-yl)methanol | CN(C1=CC=C(C=C1)C(O)C=1C=NC=CC1)C | C14H16N2O
reactant | (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol | CN1C=NC=C1C(O)C1=NC=CC=C1 | C10H11N3O
product | (4-(Dimethylamino)phenyl)(pyridin-3-yl)methanone | CN(C1=CC=C(C=C1)C(=O)C=1C=NC=CC1)C | C14H14N2O
